US04364875
2,6-Dichloro-4-nitro-1,3-diphenoxy-benzene
A mixture of 52.4 gm of 2,3,4,5-tetrachloro-1-nitro-benzene, 122 gm of phenol and 60 gm of potassium carbonate was heated for 11/2 hours at 160° C. Thereafter, the still hot reaction mixture was stirred into 1.2 liters of 2 N sodium hydroxide, and the precipitated product was collected by suction filtration and recrystallized from 300 ml of ethyl acetate. 70.5 gm (93.8% of theory) of the title compound, m.p. 164° C., were obtained.

reactant | 2,3,4,5-tetrachloro-1-nitro-benzene | 52.4 gm | ClC1=C(C=C(C(=C1Cl)Cl)Cl)[N+](=O)[O-] | C6HCl4NO2
reactant | phenol | 122 gm | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 60 gm | C([O-])([O-])=O.[K+].[K+]
solvent | sodium hydroxide | 2 N, 1.2 liters | [OH-].[Na+]
product | 2,6-Dichloro-4-nitro-1,3-diphenoxy-benzene | ClC1=C(C(=CC(=C1OC1=CC=CC=C1)[N+](=O)[O-])Cl)OC1=CC=CC=C1 | C18H11Cl2NO4
